US04826975
cis and trans 2-[4-(1-Oxo-3-phenyl-2-propenyl)-1-piperazinyl]-4,5,6-trimethoxy-1-indanol (MG 38004 and MG 38015).
A mixture of 3.3 g (11 mmole) of 2-bromo-4,5,6-trimethoxy-1-indanone (Haworth et al., J. Chem. Soc. 1952 1583-1588), 2.16 g (10 mmole) of 1-(1-oxo-3-phenyl-2-propenyl)-piperazine, 0.92 g (11 mmole) of NaHCO3 in 8 ml of methanol is refluxed with stirring for 16 hours. After cooling, and maintaining the temperature at 0°-5° C., 0.77 g (20 mmole) of NaBH4 are added at portions, then the mixture is allowed to stand for 4 hours at room temperature under stirring. The mixture is cooled and made acidic by the addition of 15% aqueous HCl. After concentration under reduced pressure, the mixture is made alkaline by the addition of an aqueous 5% solution of sodium carbonate and extracted with methylene dichloride. The organic phase is washed with H2O to neutrality and dried over sodium sulfate. On evaporation under reduced pressure, 4.2 g are obtained as a mixture of diastereoisomers cis/trans which are separated by flash-chromatography through a column filled with silicagel 60 Merck 230-400 mesh, using chloroform:acetone 50:50 as the eluent. After crystallization from acetone, 1,2 g of cis-isomer are obtained (yield 27.4%), m.p. 162-163° C. On cristallization from acetone, 1.25 g of trans-isomer are obtained (yield 28.5%); m.p. 168°-170° C.

reactant | 2-bromo-4,5,6-trimethoxy-1-indanone | 11 mmole, 3.3 g | BrC1C(C2=CC(=C(C(=C2C1)OC)OC)OC)=O | C12H13BrO4
reactant | 1-(1-oxo-3-phenyl-2-propenyl)-piperazine | 10 mmole, 2.16 g | O=C(C=CC1=CC=CC=C1)N1CCNCC1 | C13H16N2O
reactant | NaHCO3 | 11 mmole, 0.92 g | C(=O)(O)[O-].[Na+]
reactant | NaBH4 | 20 mmole, 0.77 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | trans 2-[4-(1-Oxo-3-phenyl-2-propenyl)-1-piperazinyl]-4,5,6-trimethoxy-1-indanol | yield 27.4% | O=C(C=CC1=CC=CC=C1)N1CCN(CC1)[C@H]1[C@@H](C2=CC(=C(C(=C2C1)OC)OC)OC)O | C25H30N2O5
